US09315513B2
Step 4: Preparation of 4-nitro-5-aminoindazole
By referring to the Step 5 of Example 1, 4-nitro-5-acetylaminoindazole (6.9 g, 31.5 mmol), 2 mol/L H2SO4 solution (200 mL), were used to obtain a product (4.0 g, 73.6%).

reactant | 4-nitro-5-acetylaminoindazole | 31.5 mmol, 6.9 g | [N+](=O)([O-])C1=C2C=NNC2=CC=C1NC(C)=O | C9H8N4O3
solvent | H2SO4 | 2 mol/L, 200 mL | OS(=O)(=O)O | H2O4S
product | 4-nitro-5-aminoindazole | 4.0 g, 73.6% | [N+](=O)([O-])C1=C2C=NNC2=CC=C1N | C7H6N4O2
